US07994185B2
Step C: 2-Propen-1-yl {2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}carbamate
Following a procedure analogous to the procedure described in Example 18, Step A using 2-propen-1-yl {2-chloro-3-[(2-chloro-4-pyrimidinyl)acetyl]phenyl}carbamate (3.00 g, 8.19 mmol), NBS (1.531 g, 8.60 mmol) and 4-morpholinecarbothioamide (1.677 g, 11.47 mmol) the title compound of Step C was obtained as an orange solid (4.03 g, 7.86 mmol, 96% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 9.29 (s, 1H), 8.33 (d, J=5.5 Hz, 1H), 7.67-7.84 (m, 1H), 7.48 (t, J=7.8 Hz, 1H), 7.29 (dd, J=7.7, 1.5 Hz, 1H), 6.41 (d, J=5.5 Hz, 1H), 5.83-6.08 (m, 1H), 5.36 (dd, J=17.2, 1.5 Hz, 1H), 5.23 (dd, J=10.4, 1.5 Hz, 1H), 4.62 (d, J=5.3 Hz, 2H), 3.73 (t, J=4.8 Hz, 4H), 3.57 (t, J=4.8 Hz, 4H). MS (ESI): 491.98 [M+H]+.

reactant | 2-propen-1-yl {2-chloro-3-[(2-chloro-4-pyrimidinyl)acetyl]phenyl}carbamate | 8.19 mmol, 3.00 g | ClC1=C(C=CC=C1C(CC1=NC(=NC=C1)Cl)=O)NC(OCC=C)=O | C16H13Cl2N3O3
reactant | NBS | 8.60 mmol, 1.531 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 4-morpholinecarbothioamide | 11.47 mmol, 1.677 g | N1(CCOCC1)C(N)=S | C5H10N2OS
product | 2-Propen-1-yl {2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(4-morpholinyl)-1,3-thiazol-4-yl]phenyl}carbamate | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)N1CCOCC1)NC(OCC=C)=O | C21H19Cl2N5O3S
